US04252959
Preparation of 2-(dodecylbenzenesulfonylhydrazino)-quinoline
To a solution of the sulfonyl chloride in 10 ml tetrahydrofuran was added a solution of the hydrazinoquinoline and triethylamine in 30 ml tetrahydrofuran (4 ml dimethylformamide was included to aid solubility). The temperature of the reaction mixture was maintained below 10° C. during the addition and for 30 minutes thereafter while the mixture was continuously stirred. The product was recovered as in Example 1 yielding 8.4 g of a tan solid. NMR and IR analysis confirmed the product to be 2-(dodecylbenzenesulfonylhydrazino)quinoline.

reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | hydrazinoquinoline | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(dodecylbenzenesulfonylhydrazino)-quinoline | C(CCCCCCCCCCC)N(NC1=NC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=CC=C1 | C27H37N3O2S
